US06165942
Synthesis of 8-(4-chlorophenyl)-7,8-dihydro-5-trifluoromethyl-1,2,4-triazolo[4,3-a]pyrimidin-7-one (The compound No.2)
A mixture of 3-(4-chlorophenyl)-3,4-dihydro-2-hydrazino-6-trifluoromethylpyrimidin-4-one (0.7 g), triethyl orthoformate (1.0 g) and acetic acid (10 ml) was heated for one hour at 120° C. The solvent was distilled off under reduced pressure and the residue was purified by a preparative thin-layer plate of silica gel (developing solvent: ethyl acetate/hexane=4/6) to give the compound of interest (0.45 g).

reactant | 3-(4-chlorophenyl)-3,4-dihydro-2-hydrazino-6-trifluoromethylpyrimidin-4-one | 0.7 g | ClC1=CC=C(C=C1)N1C(=NC(=CC1=O)C(F)(F)F)NN | C11H8ClF3N4O
reactant | triethyl orthoformate | 1.0 g | C(OCC)(OCC)OCC | C7H16O3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 8-(4-chlorophenyl)-7,8-dihydro-5-trifluoromethyl-1,2,4-triazolo[4,3-a]pyrimidin-7-one | ClC1=CC=C(C=C1)N1C=2N(C(=CC1=O)C(F)(F)F)C=NN2 | C12H6ClF3N4O
